US08486953B2
b) Preparation of tert-butyl 3-(3-aminopyridin-2-yloxy)azetidine-1-carboxylate
Palladium hydroxide on carbon (20%, 0.071 g, 0.51 mmol) was added into a solution of tert-butyl 3-(3-nitropyridin-2-yloxy)azetidine-1-carboxylate (3.0 g, 10.2 mmol) and ammonium formate (3.20 g, 50.8 mmol) in ethanol (100 mL). The solution was stirred at ambient temperature for 18 hours, filtered through Celite and concentrated in vacuo. The crude product was extracted with chloroform (×3) and the combined organic fractions concentrated in vacuo to yield pale brown solid (2.48 g, 92%).

reactant | tert-butyl 3-(3-nitropyridin-2-yloxy)azetidine-1-carboxylate | 10.2 mmol, 3.0 g | [N+](=O)([O-])C=1C(=NC=CC1)OC1CN(C1)C(=O)OC(C)(C)C | C13H17N3O5
reactant | ammonium formate | 50.8 mmol, 3.20 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium hydroxide on carbon | 0.51 mmol, 0.071 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 3-(3-aminopyridin-2-yloxy)azetidine-1-carboxylate | 2.48 g, 92% | NC=1C(=NC=CC1)OC1CN(C1)C(=O)OC(C)(C)C | C13H19N3O3
